US07115735B2
To the resting cells obtained, a reaction solution containing sodium phenylpyruvate in a final concentration of 100 mM, NADP in a final concentration of 0.2 mM, glucose in a final concentration of 100 mM, and methylamine-hydrochloric acid (pH 9) in a final concentration of 700 mM was added to achieve cell turbidity of 20 (absorbance at 660 nm). The reaction was conducted while stirring at 30° C. and adjusting pH to 8 to 9 with 10 N aqueous sodium hydroxide solution. The amount of N-methylphenylalanine produced after 24 hours of reaction was 13.4 g/L (reaction yield=75%).

reactant | sodium phenylpyruvate | C1(=CC=CC=C1)CC(C(=O)[O-])=O.[Na+]
reactant | NADP | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)OP(=O)(O)O)O)O)O)C(=O)N
reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | methylamine hydrochloric acid | pH 9 | CN.Cl
reactant | sodium hydroxide | 10 N | [OH-].[Na+]
product | N-methylphenylalanine | yield=75% | CN[C@@H](CC1=CC=CC=C1)C(=O)O | C10H13NO2
